
.lib "sky130_fd_pr/models/sky130.lib.spice" tt

xM2  Net-_M1-Pad1_ Vout GND GND sky130_fd_pr__nfet_01v8 w=10 l=0.15
			
xM3  Net-_M3-Pad1_ Net-_M1-Pad1_ Vdd Vdd sky130_fd_pr__pfet_01v8 w=20 l=0.15		
xM4  Net-_M3-Pad1_ Net-_M1-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=10 l=0.15
		
xM5  Net-_M5-Pad1_ Net-_M3-Pad1_ Vdd Vdd sky130_fd_pr__pfet_01v8 w=20 l=0.15		
xM6  Net-_M5-Pad1_ Net-_M3-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=10 l=0.15
		
xM7  Net-_M10-Pad2_ Net-_M5-Pad1_ Vdd Vdd sky130_fd_pr__pfet_01v8 w=20 l=0.15		
xM8  Net-_M10-Pad2_ Net-_M5-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=10 l=0.15
		
xM9  Net-_M10-Pad1_ Net-_M10-Pad2_ Vdd Vdd sky130_fd_pr__pfet_01v8 w=20 l=0.15	
xM10  Net-_M10-Pad1_ Net-_M10-Pad2_ GND GND sky130_fd_pr__nfet_01v8 w=10 l=0.15
		
xM11  Net-_M11-Pad1_ Net-_M10-Pad1_ Vdd Vdd sky130_fd_pr__pfet_01v8 w=20 l=0.15		
xM12  Net-_M11-Pad1_ Net-_M10-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=10 l=0.15
		
xM13  Net-_M13-Pad1_ Net-_M11-Pad1_ Vdd Vdd sky130_fd_pr__pfet_01v8 w=20 l=0.15		
xM14  Net-_M13-Pad1_ Net-_M11-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=10 l=0.15
		
xM15  Net-_M15-Pad1_ Net-_M13-Pad1_ Vdd Vdd sky130_fd_pr__pfet_01v8 w=20 l=0.15	
xM16  Net-_M15-Pad1_ Net-_M13-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=10 l=0.15
		
xM17  Vout Net-_M15-Pad1_ Vdd Vdd sky130_fd_pr__pfet_01v8 w=20 l=0.15		
xM18  Vout Net-_M15-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=10 l=0.15
		
xM1  Net-_M1-Pad1_ Vout Vdd Vdd sky130_fd_pr__pfet_01v8 w=20 l=0.15	

vdd vdd 0 1.5
.nodeset v(Vout)=0
.tran 1ns 3ns .5ns

.control
run
set color0 = black
set color1 = white
set color2 = yellow
set xbrushwidth = 2
plot V(Vout) 
 
 		
.endc
.end
